* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\SecondOrderFilter.asc
R1 N001 P001 82k
R2 N001 0 680
C1 N002 N001 10nf
C2 Vout N001 10nf
R3 Vout N002 70k
XU1 N003 N002 +5 -5 Vout LF356
R4 Vout N003 68k
R5 N003 0 680
V1 +5 0 5
V2 -5 0 -5
V3 P001 0 AC 1
* From transimpedance amp
.ac dec 100 50 82k
.lib LF356.sub
.backanno
.end
