* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\SecondOrderFilter.asc
R1 N001 P001 82k
R2 N001 0 719
C1 N003 N001 10nf
C2 FilterVout N001 10nf
R3 FilterVout N003 71.9k
XU1 N004 N003 +5 -5 FilterVout LF356
R4 FilterVout N004 68k
R5 N004 0 680
V1 +5 0 5
V2 -5 0 -5
V3 P001 0 AC 1
XU2 FilterVout N002 +5 -5 Vout LF356
R6 N002 0 10k
R7 Vout N002 100k
* From transimpedance amp
.ac dec 100 50 82k
* To Arduino
.lib LF356.sub
.backanno
.end
